US08802713B2
27.5 g of 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine was dissolved in 300 mL of tetrahydrofuran, and to this solution, 14 g of cyanoacetyl chloride was added, followed by stirring at room temperature for 5 minutes. Then, the solvent was distilled off under reduced pressure, the residue was dissolved in 300 mL of 1-propanol, and 10.6 g of methanesulfonic acid was added, followed by reflux with heating for 3 hours. After cooling to room temperature, the solvent was distilled off under reduced pressure, the reaction solution was neutralized to pH=7 with sodium hydrogen carbonate, and extraction with ethyl acetate was carried out. The organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane:acetic acid=50:50:1) to obtain 20.2 g of 5-amino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole in the form of brown crystals (melting point: 110-113° C.).

reactant | 2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenylhydrazine | 27.5 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN | C9H10F4N2S
reactant | cyanoacetyl chloride | 14 g | C(#N)CC(=O)Cl | C3H2ClNO
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 5-amino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole | 20.2 g | NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)O | C12H11F4N3OS
